US08426420B2
(iii) 4-((S)-4-tert-Butoxycarbonyl-2-{[5-carboxymethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 3.100 g 4-((S)-2-{[5-Benzyloxycarbonylmethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester in 20 ml ethyl acetate were added under argon 0.5 g Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (3 bar) for 16 h. The suspension was filtered over a plug of Celite® and washed with ethyl acetate. The crude product obtained after evaporation of the solvent was dried under vacuo. Yield: 2.77 g.

reactant | 4-((S)-2-{[5-Benzyloxycarbonylmethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 3.100 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)F)=O | C35H42FN5O9
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-((S)-4-tert-Butoxycarbonyl-2-{[5-carboxymethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC(=CC=C1)F)=O | C28H36FN5O9
